US07863291B2
Step B: 4-Isothiocyanato-6-(3-methoxyphenyl)pyrimidine
To a solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (0.970 g, 4.17 mmol) in dichloromethane at room temperature was added 6-(3-methoxyphenyl)pyrimidin-4-amine (0.7 g, 3.48 mmol). The reaction was stirred at room temperature for 18 hours. The LC/MS showed the desired product peak as a major peak. The deep orange solution was concentrated and the remaining residue was filtered. The filtrate was purified by silica gel chromatography (0-10% ethyl acetate-hexanes) to afford 4-isothiocyanato-6-(3-methoxyphenyl)pyrimidine (0.39 g, 4.31 mmol, 46% yield) as a yellow oil. LCMS R.T.=2.91; [M+H]+=244.03.

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 4.17 mmol, 0.970 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 6-(3-methoxyphenyl)pyrimidin-4-amine | 3.48 mmol, 0.7 g | COC=1C=C(C=CC1)C1=CC(=NC=N1)N | C11H11N3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Isothiocyanato-6-(3-methoxyphenyl)pyrimidine | N(=C=S)C1=NC=NC(=C1)C1=CC(=CC=C1)OC | C12H9N3OS
